US08349880B2
Step A (3): Dichloromethane (125 mL) was added to a flask charged with 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline (4.55 g, 20.3 mmol) and 1,1′-thiocarbonyldipyridin-2(1H)-one (4.72 g, 20.3 mmol). The resulting mixture was stirred for 24 h at rt. The crude reaction mixture was concentrated and the crude products were purified using silica gel chromatography to afford 4-chloro-1-(4-isothiocyanato-2-methoxy-phenyl)-1H-imidazole (4.28 g, 79% yield) as a white solid. LC-MS (M+H)+ 266.0. 1H NMR (500 MHz, chloroform-d) δ ppm 7.60 (d, J=1.53 Hz, 1 H) 7.24 (d, J=8.24 Hz, 1 H) 7.09 (d, J=1.83 Hz, 1 H) 6.93 (dd, J=8.24, 2.14 Hz, 1 H) 6.89 (d, J=2.14 Hz, 1 H) 3.88 (s, 3 H).

reactant | 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline | 20.3 mmol, 4.55 g | ClC=1N=CN(C1)C1=C(C=C(N)C=C1)OC | C10H10ClN3O
reactant | 1,1′-thiocarbonyldipyridin-2(1H)-one | 20.3 mmol, 4.72 g | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
solvent | Dichloromethane | 125 mL | ClCCl | CH2Cl2
product | 4-chloro-1-(4-isothiocyanato-2-methoxy-phenyl)-1H-imidazole | 4.28 g, 79% yield | ClC=1N=CN(C1)C1=C(C=C(C=C1)N=C=S)OC | C11H8ClN3OS
